* source PROIECT
V_V1         N03167 0 24Vdc
R_R19         N040671 N31009  100 TC=0,0 
R_R20         N040831 N040671  100 TC=0,0 
R_R6         N14791 N03167  220 TC=0,0 
R_R7         N14927 N03167  220 TC=0,0 
R_R2         N37561 N37557  2k TC=0,0 
R_R8         N14077 N13859  100 TC=0,0 
R_R4         N37917 N03167  3.9k TC=0,0 
R_R14         N164851 N31009  5.6k TC=0,0 
R_R18         0 N16719  10k TC=0,0 
R_R9         N262161 N08832  8.2k TC=0,0 
R_R11         0 N26301  1k TC=0,0 
X_R17         N16719 N29483 N41118 POT PARAMS: SET=1 VALUE=10K
R_R13         N309461 N31009  0.47 TC=0,0 
D_D2         0 N08832 BZX84-C5V1 
R_R1         N37557 N03167  100 TC=0,0 
R_R3         N08832 N37561  1k TC=0,0 
R_R5         N16874 N37917  680 TC=0,0 
Q_Q1         N14785 N14785 N14791 QBC856B 
Q_Q2         N15140 N14785 N14927 QBC856B 
Q_Q3         N14785 N08832 N08493 QBC846B 
Q_Q4         N15140 N29483 N08493 QBC846B 
Q_Q5         N08493 N16874 N13859 QBC846B 
Q_Q6         N16874 N13859 0 QBC846B 
R_R10         N26301 N262161  510 TC=0,0 
Q_Q7         N15140 N28006 N31009 QBC846B 
Q_Q8         N15140 N26301 0 QBC846B 
R_R21         N407651 N040831  10 TC=0,0 
R_R22         N407811 N407651  100 TC=0,0 
R_R15         N410731 N164851  220 TC=0,0 
R_R16         N41118 N410731  68 TC=0,0 
R_R23         N41323 N407811  100 TC=0,0 
R_R25         N412771 N41323  10 TC=0,0 
R_R26         0 N412771  51 TC=0,0 
D_D3         N420231 0 SMLS14BET 
D_D4         N43882 0 SMLS14BET 
R_R32         N43721 N03167  330 TC=0,0 
R_R33         N43205 N31009  100 TC=0,0 
R_R34         N43209 N43205  100 TC=0,0 
R_R35         N43213 N43209  100 TC=0,0 
R_R36         N43515 N43213  100 TC=0,0 
R_R37         N420231 N43515  82 TC=0,0 
R_R38         N437131 N43721  220 TC=0,0 
R_R39         N43886 N437131  330 TC=0,0 
R_R40         N43882 N43886  330 TC=0,0 
Q_Q9         N03167 N15140 N28006 QMJD31C 
R_R12         N49053 N309461  0.47 TC=0,0 
R_R41         N49053 N28006  0.47 TC=0,0 
R_R42         0 N14077  33 TC=0,0 
